US07550542B2
PEG 10K, 16.2% Addition Level of C12 glycidyl ether
In a 250 mL, round bottom 3-neck flask equipped with a condenser, a nitrogen in/out let, a mechanical stirrer, a thermo-watch, and a heating mantle, a mixture of 30 g of 10,000 Mw PEG and toluene (80 mL) was heated to 60° C. At this temperature, KOH (1.52 g, 0.04 mol, in 1.5 g of water) was added and the reaction mixture was stirred for 1 hour. Dodecyl glycidyl ether (5.81 g, 0.024 mole) was added and the reaction temperature was kept at 110° C. for 5 hours. After the reaction mass was cooled to 60° C., toluene (80 mL) was further added. The solution was precipitated into 300 mL of hexane. After filtration and washing with ethyl acetate (100 mL×3×) and drying in vacuum, a white polymer (31.8 g) was obtained. 1H NMR showed 11% hydrophobe incorporation. The Brookfield viscosity of a 5% aqueous solution of this oligomer was >400000 cps (BF LV, S-63, 0.3 rpm at 25° C.). Paint performance: SG10 M (standard formulation). The material was not soluble in this paint. For UCAR 379 G, TE %=0.52, VLT=−17 KU.

reactant | nitrogen in | C[C@@H]1CC[C@@]2([C@H]([C@H]3[C@@H](O2)C[C@@H]4[C@@]3(CC[C@H]5[C@H]4CC=C6[C@@]5(CC[C@@H](C6)O)C)C)C)OC1 | C27H42O3
reactant | KOH | 0.04 mol, 1.52 g | [OH-].[K+]
reactant | Dodecyl glycidyl ether | 0.024 mole, 5.81 g | C(C1CO1)OCCCCCCCCCCCC | C15H30O2
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | glycidyl ether | 31.8 g | C(C1CO1)OCC1CO1 | C6H10O3
